US09278915B2
Intermediate 34: 4-methoxybenzyl 3-{4-[(4-methoxybenzyl)oxy]phenyl}-3-(1,2-oxazol-3-yl)propanoate
To a 50 mL RB flask fitted with magnetic stirrer was charged with 3 mL of triethyl amine. To this, added 4-methoxybenzyl 3-{4-[(4-methoxybenzyl)oxy]phenyl}-4-nitrobutanoate (0.25 g, 0.537 mmol) and followed by addition of vinyl bromide (4 ml), 1,4-phenylene diisocyanate (0.3 g, 1.87 mmol), refluxed at 85° C. for 8 h. The RM was cooled to RT, solid was precipitated. The solid was removed by filtration and the filtrate was evaporated under reduced pressure. The product obtained as a brown color gummy material (0.1 g, yield: 40.2%). 1H NMR (300 MHz, CDCl3): δ 8.17-8.18 (d, 1H), 7.25-7.28 (d, 2H), 7.05-7.11 (t, 4H), 6.75-6.85 (m, 6H), 5.97-5.98 (d, 1H), 4.92 (s, 2H), 4.86 (s, 2H), 4.46-4.52 (t, 1H), 3.73 (s, 3H), 3.72 (s, 3H), 3.18-3.26 (q, 1H), 2.85-2.93 (q, 1H).

reactant | 4-methoxybenzyl 3-{4-[(4-methoxybenzyl)oxy]phenyl}-4-nitrobutanoate | 0.537 mmol, 0.25 g | COC1=CC=C(COC2=CC=C(C=C2)C(CC(=O)OCC2=CC=C(C=C2)OC)C[N+](=O)[O-])C=C1 | C26H27NO7
reactant | vinyl bromide | 4 ml | C(=C)Br | C2H3Br
reactant | 1,4-phenylene diisocyanate | 1.87 mmol, 0.3 g | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
solvent | triethyl amine | 3 mL | C(C)N(CC)CC | C6H15N
product | 4-methoxybenzyl 3-{4-[(4-methoxybenzyl)oxy]phenyl}-3-(1,2-oxazol-3-yl)propanoate | 0.1 g, yield: 40.2% | COC1=CC=C(COC2=CC=C(C=C2)C(CC(=O)OCC2=CC=C(C=C2)OC)C2=NOC=C2)C=C1 | C28H27NO6
